US08492395B2
To a stirred solution of 2-amino-4-(tert-butoxycarbonylamino-methyl)-benzoic acid (24.75 g, 92.94 mmol), imidazole (7.59 g, 111.53 mmol) in acetonitrile (300 mL), was added acetyl chloride (7.96 mL, 111.53 mmol), and the mixture was stirred at room temperature overnight. To the mixture, was added 3-amino-piperidine-2,6-dione hydrogen chloride (15.30 g, 92.94 mmol), imidazole (12.66 g, 185.89 mmol) and triphenyl phosphite (29.23 mL, 111.53 mmol), and the mixture was heated to reflux for 6 hours. The mixture was cooled to room temperature and the brown mixture was filtered. The filtrate was evaporated and then purified by flash column chromatography (Silica gel, methanol/methylene chloride 4%/96%) to give [3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-7-ylmethyl]-carbamic acid tert-butyl ester as a light yellow solid (24.57 g, 66% yield); HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 CH3CN/0.1% H3PO4, grad. to 95/5 in 5 min, kept 5 min, 5.97 min (99.7%); mp, 240-242° C.; 1HNMR (DMSO-d6) 1.29 (brs, 1H, CH from the BOC group), 1.40 (s, 8H, 8CH from the BOC group), 2.11-2.19 (m, 1H, CHH), 2.56-2.91 (m, 6H, CHCH2, CH3), 4.26 (d, J=6 Hz, 2H, CH2NH), 5.25 (dd, J=5, 11 Hz, 1H, CH), 7.35-7.99 (m, 4H, Ar and NHCH2), 11.02 (s, 1H, NH); 13C NMR (DMSO-d6) δ 20.97, 23.49, 28.19, 30.60, 43.22, 56.48, 78.00, 118.84, 123.99, 125.41, 126.00, 146.93, 147.55, 155.15, 155.81, 160.29, 169.51, 172.61. LCMS MH=401; Anal Calcd For C20H24N4O5: C, 59.99; H, 6.04; N, 13.99. Found: C, 59.78; H, 5.78; N, 13.85.

reactant | 2-amino-4-(tert-butoxycarbonylamino-methyl)-benzoic acid | 92.94 mmol, 24.75 g | NC1=C(C(=O)O)C=CC(=C1)CNC(=O)OC(C)(C)C | C13H18N2O4
reactant | imidazole | 111.53 mmol, 7.59 g | N1C=NC=C1 | C3H4N2
reactant | acetyl chloride | 111.53 mmol, 7.96 mL | C(C)(=O)Cl | C2H3ClO
reactant | 3-amino-piperidine-2,6-dione hydrogen chloride | 92.94 mmol, 15.30 g | Cl.NC1C(NC(CC1)=O)=O
reactant | imidazole | 185.89 mmol, 12.66 g | N1C=NC=C1 | C3H4N2
reactant | triphenyl phosphite | 111.53 mmol, 29.23 mL | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | acetonitrile | 300 mL | C(C)#N | C2H3N
product | [3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-7-ylmethyl]-carbamic acid tert-butyl ester | 24.57 g, 66% yield | C(C)(C)(C)OC(NCC1=CC=C2C(N(C(=NC2=C1)C)C1C(NC(CC1)=O)=O)=O)=O | C20H24N4O5
